US06303627B1
1-benzyl-4-(6-hydroxynaphth-2-yl)-piperidine
A mixture of 2.66 gm (8.0 mMol) 1-benzyl-4-(6-methoxynaphth-2-yl)piperidine and 2.3 mL (20 mMol) 48% hydrobromic acid in 15 mL acetic acid was stirred at reflux for about 18 hours. The reaction mixture was cooled and then neutralized by the addition of 5N sodium hydroxide. The mixture was extracted well with ethyl acetate and the combined organic extracts were washed with saturated aqueous sodium chloride, dried over sodium sulfate, and concentrated under reduced pressure. The residue was suspended in a mixture of hexane and ethyl acetate and this suspension was subjected to sonication. The suspension was then filtered to provide 2.02 gm (79%) of the desired compound as a tan solid.

reactant | 1-benzyl-4-(6-methoxynaphth-2-yl)piperidine | 8.0 mMol, 2.66 gm | C(C1=CC=CC=C1)N1CCC(CC1)C1=CC2=CC=C(C=C2C=C1)OC | C23H25NO
reactant | hydrobromic acid | 20 mMol, 2.3 mL | Br | BrH
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 1-benzyl-4-(6-hydroxynaphth-2-yl)-piperidine | 2.02 gm, 79% | C(C1=CC=CC=C1)N1CCC(CC1)C1=CC2=CC=C(C=C2C=C1)O | C22H23NO
